Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
Mechanical Ventilation
Arterial Line
Cental Line
 
History of Present Illness:
___ M with small lung CA metastatic to brain on recent outpatient 
corticosteroid taper who was brought to the ED by EMS after an 
acquaintance reported altered mental status. Reportedly seen 
normal around ___ ___ and then at 7:30 ___ was confused, 
ataxic, and aphasic. On arrival in the ED, a code stroke was 
called. His initial oral temp was ___. Minimally responsive 
with left eye gaze. He was observed to havea an possible seizure 
activity, described as generalized tonic movements with eye 
deviation to the left only lasting 40 secs. Given ativan 2 mg IV 
with resolution. Respirations became more rapid and shallow so 
was intubated without complication given depressed sensorium 
after induction with etomidate and succinylcholine. SBP dropped 
to ___ with propofol sedation. Subsequently spiked rectal temp 
102.6. Blood cx sent, given vanc 1 g, CTX 2 g IV. Head CT showed 
right temporoparietal vasogenic edema signifying underlying 
lesion, no ICH, and underlying small vessel ischemic disease. 
Given dexamethasone 10 mg IV and dilantin 1000 mg IV after 
evaluation by neurology. Also reportedly had coffee ground out 
of NGT - given protonix IV. Vital signs prior to transfer 102.6 
91 132/70 100% on Vt 500 f16 peep 5 fiO2 100%.  
.  
On the floor, pt arrived intubated unresponsive, sedated with 
propafol. Vent settings were AC with volume control at 500Vt, 
PEEP 5, FiO2 of 100% which was decreased to 50%.  
.  
Of note, Pt was initially diagnosed with small lung cancer in 
___. S/P 4 cycles fo chemo with Cisplatin/Etoposide, s/p 
radiation tx to mediastinum, hilum, and lung mass, s/p 
phrophylatic whole brain radiation. Following brain MRI in 
___ showed 2 metastatic lesions for which he received gamma 
knife to brain lesions. He has also developed horseness due to 
partially paralysed left vocal cord r/t cancer  
.  
Review of systems:  
(+) Per HPI, as per his daughter he was coughing the day before. 
 
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  
.  

 
Past Medical History:
Lung CA metastatic to brain  
hypercholesterol  
BPH  

 
Social History:
___
Family History:
NC 
 
Physical Exam:
Vitals: T: 98.3, HR 85, BP 142/69, RR 19, Sat 100% on vent ( AC 
500Vt, PEEP 5, FiO2 50%, RR 16 )  
General: Pale, with hue discoloration, cachetic, Non-responsive 
in no acute distress  
HEENT: Sclera anicteric, MM dry, NG tube to sx small amount of 
coffee ground fluid in the tube  
Neck: supple, prominet EJ, no LAD  
Lungs: Clear to auscultation bilaterally, expect for crackles at 
the bases L >R.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley-> BSD with clear yellow urine  
Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
Admission Labs: ___ 08:23PM   
GLUCOSE-119* LACTATE-1.0 NA+-135 K+-3.7 CL--93* TCO2-30 UREA 
N-14 CREAT-1.1
WBC-3.5* RBC-3.61* HGB-12.1* HCT-34.7* MCV-96 PLT COUNT-264
___ PTT-22.9 ___
___

Discharge Labs: ___ 09:00AM 
WBC-4.3 RBC-3.67* Hgb-12.0* Hct-36.0* MCV-98 Plt ___
Glucose-84 UreaN-12 Creat-0.8 Na-138 K-3.9 Cl-100 HCO3-___. No PE identified. Extreme lung bases were not imaged. 
2. Moderate bilateral non-hemorrhagic pleural effusions 
associated with basal atelectases. 
3. Spiculated nodule in the left upper lobe not significantly 
changed in size from ___ with bronchial wall thickening and 
peribronchial opacities in the apical posterior segments in LUL 
similar in appearance to prior study. 
4. Spiculated opacity in the right apex also without significant 
change. 
5. Paraseptal and centrilobular emphysema. 
6. Right hilar and subcarinal lymphadenopathy, increased in size 
from 
___.  

Head MRI: There are two ring-enhancing parenchymal lesions. 
There is a 1.8 
cm round lesion in the posterior right temporal lobe, which 
demonstrates 
evidence of chronic blood products on the gradient echo 
sequence. The rim of this lesion also demonstrates slow 
diffusion, which may indicate 
hypercellularity. The nonenhancing ___ the lesion does not 
demonstrate slow diffusion, suggesting that this does not 
represent an abscess. There is moderate vasogenic edema 
involving the right temporal, occipital, and parietal lobes. The 
second ring-enhancing lesion is located in the posterior left 
temporal lobe. It is round, measuring 1.1 cm. There are no 
associated blood products or diffusion abnormalities. There is 
mild associated vasogenic edema. 

 
Brief Hospital Course:
___ yo with metastatic small cell lung cancer who presents with 
change in MS, fever and seizeures who was found to have 
vasogenic edema.
  
# Seizure: Intubated in ED for airway protection. MRI showed two 
previously known metastatic lesions. He was evaluated by 
neurology and started on levetiracetam, dexamethasone, and 
phenytoin. He was also evaluated by radiation oncology. Dilantin 
was tapered off as Keppra was increased, and he is being 
discharged on Keppra and Decadon alone. If his steroids are to 
be continued long-term, he should be started on Ca/Vit 
D/Bisphosphonate/Bactrim. PPI continued at discharge but can be 
discontinued when steroids are stopped. The patient was 
instructed that he should not drive until he has been 
seizure-free for 6 months.

# Fever: Initial concern for aspiration pneumonia vs. ventilator 
associated pneumonia. Multiple chest X-rays showed no evidence 
of infection and antibiotics were stopped. He had no fevers 
while on the general medicine floor.

# Shortness of breath: Patient had an acute episode of shortness 
of breath on ___ after being laid flat for removal of a 
central line. He improved with supportive care alone. Chest CTA 
showed no evidence of emboli or infiltrates, but did show small 
bilateral pleural effusions, likely related to volume 
resuscitation in the ICU. Patient improved and had oxygen 
saturations of 97-99% on room air.

 
Medications on Admission:
MVI I tab once daily  
-Mucinex ___ twice daily  
-Decadron 1.5 mg, 2 tablets BID last dose on ___  
-Pepcid 20mg daily 

 
Discharge Medications:
1. Dexamethasone 4 mg PO/NG Q8H 
Disp #*30 Day(s) Refills:*0
2. LeVETiracetam 1000 mg PO/NG BID 
Disp #*30 Day(s) Refills:*0
3. Pantoprazole 40 mg PO Q12H 
Disp #*30 Day(s) Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lung Cancer
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with seizures and were initially treated in 
the ICU. You were started on steroids and anti-seizure 
medications and had no further witnessed seizures. While on the 
medical floor you had an episode of shortness of breath, which 
was thought to be secondary to mucous vs. fluid in your lungs. 
You had a chest CT which showed no evidence of infection or 
clot.

 
Followup Instructions:
___